US06433167B1
(1) Synthesis of 3-[4-(Ethoxycarbonylmethyloxymethyl)phenylcarbonyl]pyridine
150 mg of 60% sodium hydride was gradually added to 10 ml of a DMF solution of 666 mg of 3-[4-(hydroxymethyl)phenylcarbonyl]pyridine under ice cooling. The reaction solution was stirred at room temperature for 1 hour, then 0.4 ml of 2-bromoethyl acetate was added and the mixture was stirred under the same reaction conditions for 3 hours. After the reaction was completed, the reactive product was diluted with water, extracted with ethyl acetate, and the resultant product was washed with brine, then dried over magnesium sulfate, filtered, and concentrated in vacuo to obtain the desired compound in an amount of 336 mg.

reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3-[4-(hydroxymethyl)phenylcarbonyl]pyridine | 666 mg | OCC1=CC=C(C=C1)C(=O)C=1C=NC=CC1 | C13H11NO2
reactant | 2-bromoethyl acetate | 0.4 ml | C(C)(=O)OCCBr | C4H7BrO2
solvent | water | O | H2O
product | 3-[4-(Ethoxycarbonylmethyloxymethyl)phenylcarbonyl]pyridine | C(C)OC(=O)COCC1=CC=C(C=C1)C(=O)C=1C=NC=CC1 | C17H17NO4
